US04497650
N-Cyclohexyl-4-oxo-2,3,4,10-tetrahydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide
The subject compound was prepared from 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one and cyclohexyl isocyanate according to the method of Example 10. The confirmatory elemental analysis for the product, mp 114°-116° C., is shown in Table III.

reactant | 1,2-dihydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1C)=O)C=CC=C3)C | C12H14N4O
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | N-Cyclohexyl-4-oxo-2,3,4,10-tetrahydro-2,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide | C1(CCCCC1)NC(=O)N1C=2N(C3=C1C=CC=C3)C(N(C(N2)(C)C)C)=O | C19H25N5O2
